US04287200
To 12 ml of dimethylsulfoxide is dissolved 1.12 g of 5-(4-hydroxybenzyl)thiazolidine-2,4-dione, and 480 mg of 50% sodium hydride in oil is added to the solution. The mixture is stirred at room temperature for 15 minutes, to which is added 0.81 g of 4-chlorobenzyl chloride. The whole mixture is stirred at 50° C. for 4 hours. Water is added to the mixture and the mixture is acidified with 2 N--hydrochloric acid. The mixture is subjected to extraction with ether. The extract is washed with water and dried. Ether is distilled off to give an oily substance. The oily substance is subjected to column chromatography on 30 g silica gel, elution being carried out with cyclohexane-ethyl acetate (2:1). By the above procedure there was obtained 425 mg of 5-[4-(4-chlorobenzyloxy)benzyl]thiazolidine-2,4-dione.

reactant | 5-(4-hydroxybenzyl)thiazolidine-2,4-dione | 1.12 g | OC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C10H9NO3S
reactant | sodium hydride | 480 mg | [H-].[Na+]
reactant | 4-chlorobenzyl chloride | 0.81 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | hydrochloric acid | Cl | ClH
solvent | Water | O | H2O
solvent | dimethylsulfoxide | 12 ml | CS(=O)C | C2H6OS
product | 5-[4-(4-chlorobenzyloxy)benzyl]thiazolidine-2,4-dione | 425 mg | ClC1=CC=C(COC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C=C1 | C17H14ClNO3S
